US06969710B2
N-(2-amino-5-(4-boc-1-piperazinyl)-phenyl)-benzenesulfonamide
A mixture of N-(2-nitro-3-fluorophenyl)-benzenesulfonamide (4.68 g, 15.7 mmol), Boc-piperazine (3.5 g, 18.9 mmol) and K2CO3 (3.8 g, 27.8 mmol) in DMF was stirred at 70° C. for 24 h. The mixture was filtered and purified by column chromatography (SiO2, CH2Cl2/MeOH/heptane/NH3 4:1:5:0.2%) to give 2.0 g of desired product. 1H-NMR δ 7.98 (d, 1H), 7.89-7.84 (m, 2H), 7.63-7.50 (m, 3H), 7.00 (d, 1H), 6.68 (dd, 1H), 3.59-3.45 (m, 8H), 1.49 (s, 9H); MS (posES-FIA) m/z=found: 485.0. (M++Na+). The product (1.85 g, 4.00 mmol) was dissolved in EtOH:THF (4:1) followed by addition of Raney-Ni and hydrazine (1.0 mL, 20 mmol). The reaction was stirred at room temperature for 3 h until the yellow color disappeared. Filtration through wet Celite, followed by removal of the solvent afforded 1.26 g of N-(2-amino-5-(4-tert-butoxycarbonyl-1-piperazinyl)-phenyl)-benzenesulfonamide which was used without further purification.

reactant | N-(2-nitro-3-fluorophenyl)-benzenesulfonamide | 15.7 mmol, 4.68 g | [N+](=O)([O-])C1=C(C=CC=C1F)NS(=O)(=O)C1=CC=CC=C1 | C12H9FN2O4S
reactant | Boc-piperazine | 18.9 mmol, 3.5 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | K2CO3 | 27.8 mmol, 3.8 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-amino-5-(4-boc-1-piperazinyl)-phenyl)-benzenesulfonamide | 2.0 g | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
